US07335771B2
Dimethyl 2,5-bis{(4-bromophenyl}amino]cyclohexa-1,4-diene-1,4-dicarboxylate (5.36 gm; 10 mmol) the sodium salt of 3-nitrobenzenesulphonic acid (2.3 gm; 10 mmol), ethanol (50 ml) and 1.0M sodium hydroxide (30 ml) were heated to reflux for 7 hours under a nitrogen atmosphere. The bright yellow solution was allowed to cool and water (120 ml) was added. The mixture was acidified with conc. hydrochloric acid when a magenta solid precipitated out. This material was filtered off, washed with water and dried under vacuum over phosphorous pentoxide to give 4.84 gm (96%) of 2,5-bis{(4-bromophenyl)amino}terephthalic acid.

reactant | Dimethyl 2,5-bis{(4-bromophenyl}amino]cyclohexa-1,4-diene-1,4-dicarboxylate | 10 mmol, 5.36 gm | BrC1=CC=C(C=C1)NC1=C(CC(=C(C1)C(=O)OC)NC1=CC=C(C=C1)Br)C(=O)OC | C22H20Br2N2O4
reactant | sodium | [Na] | Na
reactant | 3-nitrobenzenesulphonic acid | 10 mmol, 2.3 gm | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)O | C6H5NO5S
reactant | sodium hydroxide | 1.0M, 30 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 120 ml | O | H2O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2,5-bis{(4-bromophenyl)amino}terephthalic acid | 4.84 gm, 96% | BrC1=CC=C(C=C1)NC1=C(C(=O)O)C=C(C(=C1)C(=O)O)NC1=CC=C(C=C1)Br | C20H14Br2N2O4
